*//////////////////////////////////////////////////////////////////////
* (C) National Semiconductor, Inc.
* Models developed and under copyright by:
* National Semiconductor, Inc.  

*/////////////////////////////////////////////////////////////////////
* Legal Notice: This material is intended for free software support.
* The file may be copied, and distributed; however, reselling the 
*  material is illegal

*////////////////////////////////////////////////////////////////////
* For ordering or technical information on these models, contact:
* National Semiconductor's Customer Response Center
*                 7:00 A.M.--7:00 P.M.  U.S. Central Time
*                                (800) 272-9959
* For Applications support, contact the Internet address:
*  amps-apps@galaxy.nsc.com

*/////////////////////////////////////////////////
*LMC6772B  CMOS Comparator Macro-Model
*/////////////////////////////////////////////////
*
* connections:       non-inverting input
*                    |      inverting input
*                    |      |      output
*                    |      |      |      positive power supply
*                    |      |      |      |      negative power supply
*                    |      |      |      |      |
*                    |      |      |      |      |
.SUBCKT LMC6772B/NS  3      2      6      4      5
*
*Features
*Open Drain Output
*Low Power Consumption
*Wide Range of Supply
*5us Response Time at 5V and 100mv Overdrive
*
*----- input satge -----
RINB 2 18 1000
RINA 3 19 1000
DIN1 5 18 DMOD2
DIN2 18 4 DMOD2
DIN3 5 19 DMOD2
DIN4 19 4 DMOD2
FIN1 18 5 VTEMP 0.75
FIN2 19 5 VTEMP 1.25
* Input Bias Currents
CIN1 2 10 1e-12
CIN2 3 10 1e-12
* Common Mode Input Capacitance
RD1 18 11 5e+10
RD2 19 11 5e+10
* Diff. Input Resistance
RCM 11 10 9.975e+12
* Common Mode Input Resistance
*----- supply current ------
EXX 10 5 17 5 1.0
EEE 10 50 17 5 1.0
ECC 40 10 4 17 1.0
RAA 4 17 100MEG
RBB 17 5 100MEG
RSLOPE 4 5 1e+12
* Slope of Supp. Curr. vs. Supp. Volt.
GPWR 4 5 26 10 0.000006
* Quiescent Supply Current
*----- VOS bridge -----
EOX 120 10 31 32 2.0
RCX 120 121 1K
RDX 121 10 1K
RBX 120 122 1K
RAX 122 10 MRAX 1.0280e+03
* Input Offset Voltage
.MODEL MRAX RES (TC1=0)
*----- delay stage -----
RX8 40 815 10K
RY8 815 50 5K
RBA8 815 50 5K
RBB8 815 811 1K
EIN8 810 811 3 2 -1
EVOSS 814 811 122 121 1
*===
RCA8 40 812 1K
RCB8 40 813 1K
DDA8 812 813 DDEL1
DDB8 813 812 DDEL2
* Delay Time Settings
CDB8 813 812 10P
RCDB8 813 812 1MEG
FSET8 809 50 VSENS1 1
CCC 809 50 5P
QDN1 812 810 809 NPNX
QDN2 813 814 809 NPNX
.MODEL NPNX NPN (BF=100 RE=25)
.MODEL DDEL2 D (IS=1e-6 TT=9.5U N=4.0)
.MODEL DDEL1 D (IS=4e-6 TT=12.0U N=4.5)
GDM 10 57 812 813 1
*----- start-up -----
ISET 10 24 1e-3
DA1 24 23 DMOD1
RBAL 23 22 1000
ESUPP 22 21 4 5 1.0
VOFF 21 10 -1.25
DA2 24 25 DMOD1
VSENS1 25 26 DC 0
RSET 26 10 1K
CSET 26 10 1e-10
*----- temp. Coef. ----- 
FSET 10 31 VSENS1 1.0
RVOS 31 32 1K
RIB 32 33 MRIB 1K 
* Temp. Co. of Input Currents
.MODEL MRIB RES (TC1=0.0036363)
RISC 33 34 MRISC 1K 
.MODEL MRISC RES (TC1=0)
R001 34 10 1K
*----- CMRR -----
ECMR 38 10 11 10 1.0
VCMX 38 39 DC 0
RCM2 41 10 1MEG
RCM1 39 41 1778.28
CCM 41 10 1.59155e-10
* CMRR vs. Freq.
*----- PSRR -----
EPSR 42 10 4 10 1.0
CDC1 43 42 10U
VPSX 43 44 DC 0
RPSR2 45 10 1MEG
RPSR1 44 45 1000
CPSR 45 10 1.59155e-10
* PSRR vs. Freq.
*----- IB temp. -----
FTEMP 10 27 VSENS1 1.0
ETEMP 27 28 32 33 0.6184
DTA 27 10 DMOD2
DTB 28 29 DMOD2
VTEMP 29 10 DC 0
*----- Out Curr. sense & set -----
FX 10 93 VOX 1.0
DFX1 93 91 DMOD1
VFX1 91 10 DC 0
DFX2 92 93 DMOD1
VFX2 10 92 DC 0
FPX 4 10 VFX1 1.0
FNX 10 5 VFX2 1.0
*----- comm. input sense -----
DCX1 98 97 DMOD1
DCX2 95 94 DMOD1
RCX1 99 98 100
RCX2 94 99 100
VCXX 99 96 DC 0
ECMX 96 10 11 10 1.0
ECMP 40 97 26 10 0.2
ECMN 95 50 26 10 0.1
*----- inter-stage -----
GOS 10 57 122 121 1.0
GOSD 10 57 11 0 0.14m
FCMR 10 57 VCMX 1000
* Low Freq. CMRR
FPSR 10 57 VPSX 1600
* Low Freq. PSRR
FCXX 57 10 VCXX 100
RDM 57 10 7255.2
C2 57 10 1.09683e-13
DLIM1 52 57 DMOD1
DLIM2 57 51 DMOD1
ELIMP 51 10 26 10 99.3
ELIMN 10 52 26 10 99.3
*
G2 58 10 57 10 1.0e-05
R2 58 10 13.7832
GO2 59 10 58 10 10
* Avol and Slew-Rate Settings
RO2 59 10 1K
DCLMP2 59 40 DMOD1
DCLMP1 50 59 DMOD1
*----- output stage -----
GO3 10 71 59 10 1
RO3 71 10 1
RDP 720 72 100
RPO 79 81 28
DDP1 75 72 DMOD1
DDP2 71 720 DMOD1
C1 58 59 1e-10
VOON 77 50 DC 0
QNP 77 72 79 PNP1
VOX 86 6 DC 0
VOOP 40 76 DC 0
RNT 76 81 100MEG
RPT 81 77 1MEG
ENEG 75 50 26 10 0.04
* Output Voltage Swing Settings
GSINK 72 75 33 34 0.00045
* Output Current Settings
ROO 81 86 0.1
.MODEL DMOD1 D
.MODEL DMOD2 D (IS=1e-17)
.MODEL PNP1 PNP (BF=100 IS=1e-13)
RA 73 40 10e6
RB 72 50 10e6
RC 72 73 10e6
RD 10 57 10e6
RE 24 10 10e6
RF 93 10 10e6
*
.ENDS
*
*$
